US05677316
(3) Ethyl (S)-1-cyclopropyl-7-(3-(N,N-dibenzylaminomethyl)-3-fluoromethylpyrrolidin-1-yl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate
(S)-4-(3-(N,N-Dibenzylaminomethyl)-3-fluoromethylpyrrolidin-1-yl)-2,3,5-trifluorobenzoyl chloride hydrochloride (0.97 g) was dissolved in acetonitrile (8 ml). Ethyl N,N-dimethylaminoacrylate (0.27 g) and triethylamine (0.4 g) were dissolved in acetonitrile (1 ml) and dropwise added thereto with stirring at room temperature. The mixture was stirred at room temperature for 1 hour and at 50° C. for 4 hours. The reaction mixture was cooled to room temperature and cyclopropylamine (0.11 g) was added. The mixture was stirred at room temperature for 3 hours and the reaction mixture was concentrated. Water was added to the residue and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. Dry dimethylformamide (3 ml) and potassium carbonate (0.26 g) were added to the residue, and the mixture was stirred at 60° C. for 8 hours. Water was added and the mixture was extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The obtained oil was purified by silica gel column chromatography (developing solvent; chloroform:methanol=30:1) to give the object compound as a pale-yellow oil.

reactant | (S)-4-(3-(N,N-Dibenzylaminomethyl)-3-fluoromethylpyrrolidin-1-yl)-2,3,5-trifluorobenzoyl chloride hydrochloride | 0.97 g | Cl.C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C[C@@]1(CN(CC1)C1=C(C(=C(C(=O)Cl)C=C1F)F)F)CF
reactant | Ethyl N,N-dimethylaminoacrylate | 0.27 g | CN(C)C(C(=O)OCC)=C | C7H13NO2
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 0.11 g | C1(CC1)N | C3H7N
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | Ethyl (S)-1-cyclopropyl-7-(3-(N,N-dibenzylaminomethyl)-3-fluoromethylpyrrolidin-1-yl)-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1C[C@@](CC1)(CF)CN(CC1=CC=CC=C1)CC1=CC=CC=C1)F)=O)C(=O)OCC | C35H36F3N3O3
